US06251917B1
a) (S)-2-Benzoyl-N-(3-phenylpropan-1-ol-2-yl)benzamide
2-Benzoylbenzoic acid was reacted with (S)-2-amino-3-phenyl-1-propanol by the method of procedure 3c. 2.6 g (86%) of the product were obtained.

reactant | 2-Benzoylbenzoic acid | C(C1=CC=CC=C1)(=O)C1=C(C(=O)O)C=CC=C1 | C14H10O3
reactant | (S)-2-amino-3-phenyl-1-propanol | N[C@H](CO)CC1=CC=CC=C1 | C9H13NO
product | (S)-2-Benzoyl-N-(3-phenylpropan-1-ol-2-yl)benzamide | 2.6 g, 86% | C(C1=CC=CC=C1)(=O)C1=C(C(=O)N[C@H](CO)CC2=CC=CC=C2)C=CC=C1 | C23H21NO3
